// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=9.93459e-08 rise=3.97384e-10 fall=3.97384e-10 width=1.58953e-05 period=3.17907e-05

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=0.0001
r1 (mid out) resistor r=4375.96
c1 (out 0) capacitor c=1e-11

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=7.94767e-06 errpreset=conservative maxstep=9.93459e-10

save in out
